US08026244B2
(a) 4-{[(2-Butyl-4-chloro-1H-imidazol-5-yl)methyl]amino}-1H-imidazole-5-carboxamide
A reaction mixture of 4-amino-5-imidazolecarboxamide (0.50 g, 3.96 mmol), 2-butyl-5-chloro-1H-imidazole-4-carbaldehyde (0.89 g, 4.76 mmol), and NaCNBH3 (0.25 g, 3.96 mmol) in methanol (5 mL) was stirred at r.t. over night. Acetic acid (0.24 g, 3.96 mmol) was added and the mixture was heated at 50° C. for 5 h. The mixture was concentrated in vacuo and dissolved in ethyl acetate and washed with water. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were dried (MgSO4) and concentrated. The crude product was purified by flash column chromatography (CH2Cl2/methanol gradient; 0 to 20% methanol), obtaining 0.30 g (26%) of the title compound.

reactant | 4-amino-5-imidazolecarboxamide | 3.96 mmol, 0.50 g | NC=1N=CNC1C(=O)N | C4H6N4O
reactant | 2-butyl-5-chloro-1H-imidazole-4-carbaldehyde | 4.76 mmol, 0.89 g | C(CCC)C=1NC(=C(N1)C=O)Cl | C8H11ClN2O
reactant | NaCNBH3 | 3.96 mmol, 0.25 g | [BH3-]C#N.[Na+]
reactant | Acetic acid | 3.96 mmol, 0.24 g | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | 4-{[(2-Butyl-4-chloro-1H-imidazol-5-yl)methyl]amino}-1H-imidazole-5-carboxamide | 0.30 g, 26% | C(CCC)C=1NC(=C(N1)Cl)CNC=1N=CNC1C(=O)N | C12H17ClN6O
